US07524847B2
4-(2-Chloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester
4-(2-Chloro-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester (6.62 g) was dissolved in N,N-dimethylformamide (66 mL), methyl iodide (1.34 mL) and anhydrous potassium carbonate (3.51 g) were added to this solution cooled in an ice bath. After stirring the reaction solution at room temperature for five hours, 1 N hydrochloric acid (5 mL) and water (200 mL) were added to this reaction solution, which was then extracted using ethyl acetate. The obtained organic layer was washed sequentially with water and then saturated brine, and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure to give the title compound as a solid (7.40 g).

reactant | 4-(2-Chloro-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester | 6.62 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CNC2=NC(=N1)Cl | C14H19ClN6O2
reactant | methyl iodide | 1.34 mL | CI | CH3I
reactant | potassium carbonate | 3.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 66 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 4-(2-Chloro-9-methyl-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester | 7.40 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CN(C2=NC(=N1)Cl)C | C15H21ClN6O2
